US08895596B2
Step B Methyl 3-{[5-(biphenyl-4-yl)-1-(biphenyl-4-ylmethyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate.
A 50 mL flask was charged with methyl 3-{[1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-iodo-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate (0.4 g, 0.664 mmol), 4-biphenylboronic acid (0.130 g, 0.664 mmol), Pd(PPh3)4 (0.038 g, 0.033 mmol), DMF (9 mL), and 1 M aqueous K2CO3 (1.3 ml, 1.30 mmol). The reaction was degassed with N2 and then heated at 120° C. for 1 h. Then the volatiles were removed in vacuo and the resulting residue was partitioned between EtOAc and H2O. The aqueous phase was separated and extracted with EtOAc. The combined organic layers were washed with brine, dried (MgSO4), filtered, and concentrated. Chromatography of the resulting residue over silica (preparative TLC) eluting with 40% EtOAc/hexanes afforded the title compound. LC-MS: calculated for C40H34F2N2O3 628.25, observed m/e: 629.17 (M+H)+ (Rt 3.83/4 min).

reactant | methyl 3-{[1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-iodo-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate | 0.664 mmol, 0.4 g | C1(=CC=C(C=C1)CN1C(=NC2=C1C=C(C(=C2F)I)F)OC2CC(CCC2)C(=O)OC)C2=CC=CC=C2 | C28H25F2IN2O3
reactant | 4-biphenylboronic acid | 0.664 mmol, 0.130 g | C1(=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | K2CO3 | 1.30 mmol, 1 M, 1.3 ml | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.033 mmol, 0.038 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | Methyl 3-{[5-(biphenyl-4-yl)-1-(biphenyl-4-ylmethyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate | C1(=CC=C(C=C1)C1=C(C2=C(N(C(=N2)OC2CC(CCC2)C(=O)OC)CC2=CC=C(C=C2)C2=CC=CC=C2)C=C1F)F)C1=CC=CC=C1 | C40H34F2N2O3
